US04080502
29.7 g (0.1 mol) of 2,4-dioxo-hexahydro-1,3,5-trimethyl-6-(2-hydroxy-naphthyl)-s-triazine and 20 g (0.5 mol) of sodium hydroxide in 50 ml of water are stirred for 8 hours at 95° C. The solution is then acidified and 2-hydroxy-naphthaldehyde of melting point 82° C is obtained.

reactant | 2,4-dioxo-hexahydro-1,3,5-trimethyl-6-(2-hydroxy-naphthyl)-s-triazine | 0.1 mol, 29.7 g | O=C1N(C(N(C(N1C)=O)C)C1=C(C=CC2=CC=CC=C12)O)C | C16H17N3O3
reactant | sodium hydroxide | 0.5 mol, 20 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 2-hydroxy-naphthaldehyde | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
